US07601716B2
(3-{1-[5-Chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}phenyl)-(2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-yl)methanone
3-{1-[5-chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}benzoic acid was reacted with 2-(1-piperazinyl)pyrazine as in General Procedure 10 to give the title compound. LCMS: m/z=593.97 (M+H+); retention time=0.78 minutes.

reactant | 3-{1-[5-chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}benzoic acid | ClC=1C=CC(=C(CN2C3=C(NCC2)N=CC(=C3)C=3C=C(C(=O)O)C=CC3)C1)C(F)(F)F | C22H17ClF3N3O2
reactant | 2-(1-piperazinyl)pyrazine | N1(CCNCC1)C1=NC=CN=C1 | C8H12N4
product | (3-{1-[5-Chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}phenyl)-(2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-yl)methanone | ClC=1C=CC(=C(CN2C3=C(NCC2)N=CC(=C3)C=3C=C(C=CC3)C(=O)N3CCN(CC3)C3=NC=CN=C3)C1)C(F)(F)F | C30H27ClF3N7O
